datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10].CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.C[N:10](C)[NH:61]C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N+:10](C)(C)[NH:61]C)[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10].Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC[Pb:63](CC)(CC)[CH2:62][CH2+:11].Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72]>>CC(C)(C1=CC=CC=C1)[O-:21].CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[S:20]C(F)(F)F)=[O:72] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[C:61]2[N:62](CC[C@@H]1C(C)C)C1=C(C=CC=C1)[S:72]2)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([C:20]2(C3=CC=CC=C3)[S:31]CCC[S:41]2)O1 10,11=10,20"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12].F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:61][C:11]([C:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)[O-:12].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:62][C:11]([CH:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[C:76](Cl)[CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>COC1=CC=[N+](C[C:21]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1CC[N+:12]2=[C:11]1[S:62]CCC2)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.C1C[CH:20]=[CH:21][C:22](=[O:23])C1>>C1CC[C+:11]([CH2:10][CH:20]2CCC[C:22]([O-:23])=[CH:21]2)CC1 10,11=10,20;20,21=21,22;22,23=23"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1/[N:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[O:72][C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C([N+](=O)[O-])C=C1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>CC[O:83][P:72]([CH:10]([C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20;20,21=21,22;22,23=23"
